Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([N:2]([C+:3]=[C:5]=[N-:6])[H:10])([H:7])([H:8])[H:9].[C:4]([H:11])([H:12])([H:13])[H:14]>>[C:1]([N:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]#[N:6])[H:11])[H:10])([H:7])([H:8])[H:9],25.3554198097306
[N:1]([C@@:2]([C:3]#[C:4][H:10])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]([N:6]=[C:5]=[C:2]([C:3]#[C:4][H:10])[H:9])([H:7])[H:8],71.6355685451832
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C+:3]=[C:5]=[N-:6])([H:8])[H:9])[H:7].[O:4]([H:10])[H:11],64.0776687071006
[C:1]([H:8])([H:9])([H:10])[H:14].[C:2](=[O:3])([C:4]([O:5][H:12])([C:6](=[O:7])[H:15])[H:13])[H:11]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])[H:11])([H:8])([H:9])[H:10],62.68334310791796
[C:1]([N:2]([C:3](=[O:4])[O:5][C:6]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:6]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[C:3](=[O:4])=[O:5],63.010575918906795
[C:5]=[N:6][H:11].[O:1]([C:2]([C:3](=[O:4])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7],38.7934730134596
[O:1]([C@@:2]([C:3]([C:4](=[O:5])[H:12])([H:10])[H:11])([C:7](=[C:6]([H:13])[H:14])[H:15])[H:9])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],92.2048263333784
[C:1]([c:2]1[n:3][o:4][c:5]([N:6]([H:11])[H:12])[c:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:7]([C:2]#[N:3])([C:5](=[O:4])[N:6]([H:11])[H:12])[H:13])([H:8])([H:9])[H:10],53.173589362563895
[C:1](=[N:2][C@:3]([N:4]([H:10])[H:11])([C:5](=[O:6])[H:12])[H:9])([H:7])[H:8]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9],72.2696375292873
[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:12].[O:2](/[C:3](=[C:4](/[C:6]([O:7][H:17])([H:15])[H:16])[H:13])[H:11])[O:5][H:14],137.12016305636
[C-:5]#[O+:6].[C:1]([N:2]([C:3](=[O:4])[H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[N:2]=[C:3](\[O:4][C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],52.10185859351578
[C+:3](=[C:5]=[N-:6])[H:10].[O:1]([C:2]([O:4][H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7],18.1152318450159
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([O:6][C:5](=[C:4]([H:12])[H:13])[H:14])[H:10])([H:7])([H:8])[H:9],62.3526996054161
[O:1]=[C:2]([O:6]/[C:5](=[C:4](\[C:3]([H:8])([H:9])[H:10])[H:11])[H:12])[H:7]>>[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],86.59563338410514
[C:1]1([H:8])([H:10])[C@:2]2([H:11])[C:3]([H:12])([H:13])[C@:4]2([H:14])[C:5]([H:15])([H:16])[C:6]1=[O:7].[H:9][H:17]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],75.44976352271422
[N:1]1([H:8])[C@:2]([C:6]#[N:7])([H:9])[O:3][C:4]([H:10])([H:11])[C:5]1([H:12])[H:13]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],77.84016761156181
[C:1]([H:7])([H:8])([H:9])[H:10].[C:2]1[C:3]([H:11])([H:12])[C@:4]1([C:5]#[N:6])[H:13]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[N:6])[H:13])([H:7])([H:8])[H:9],1.420693697522907
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])=[C:5]1[C:6](=[O:4])[H:12])([H:7])([H:8])[H:9],79.4609666699056
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[H:7])([N:6]=[C:5]=[C:4]([H:13])[H:14])([H:8])[H:9]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]#[N:6])([H:13])[H:14])([H:7])([H:8])[H:9],64.55426082125999
[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:4]1=[N:5][C:7]([H:14])=[C:6]=[C:2]([H:11])[C:3]1([H:12])[H:13])([H:8])([H:9])[H:10],98.3127571795847
[C-:4]#[O+:5].[C:1]([C:2](=[O:3])[H:11])([H:8])([H:9])[H:10].[C:6](#[C:7][H:13])[H:12]>>[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],36.0134087588972
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15].[H:13][H:16],64.117152436128
[C:1]([C:2]([O:3][C:6]([C:4](=[O:5])[O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],90.02941641242244
[O-:1][C:2](=[C:3]([O:4][H:8])[C:5]#[C+:6])[H:7]>>[O:1]=[C:2]([C:3](=[O:4])[C:5]#[C:6][H:8])[H:7],29.562328214192597
[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C:4]([H:12])=[C:7]([H:13])[C:6]1=[O:5])([H:8])([H:9])[H:10],104.173559990087
